Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Vancomycin / Iodine; Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___
 
Chief Complaint:
End colostomy and peristomal hernia.
 
Major Surgical or Invasive Procedure:
Takedown of colostomy and repair of peristomal
hernia.

 
History of Present Illness:
___ y/o woman who is status post emergent end colostomy resection 
of diverticular
perforation and ___ pouch ___ months ago. She developed a 
peristomal hernia recently and she was to have colostomy taken 
down. Of note, she is a previous bone marrow transplant patient 
with graft-versus-host disease who is on chronic 
immunosuppression. She had an MI more than 6 months ago and has 
recently gone off her Plavix and Coumadin.  She remains on 
aspirin as per cardiology recommendations.

 
Past Medical History:
-Recent perforated diverticulum leading to sigmoid resection, 
___ procedure and end colostomy. (___)
- CAD, STEMI in ___ s/p PCI/stenting to RCA  
- perisurgical PAfib with RVR ___
- Endoscopic CABG x 1 ___  
- RCA stent ___  
- h/o AML, s/p chemotherapy, radiation and bone marrow 
transplantation  
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus - diet controlled  
- Diverticulosis, noted on colonoscopy ___ years ago  
- Occasional bronchospasm treated with Primatene Mist  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE  
- History of Shingles  
- History of Asthma  

 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
Gen: a and o x 3
V.S.S
CV RRR no m/r/g
RESP lsct, bilat
ABD soft, nt nt, + bs
Ext: no c/c/e
 
Pertinent Results:
___ 01:28PM   GLUCOSE-270* UREA N-13 CREAT-1.1 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-24 ANION GAP-15
___ 01:28PM   CALCIUM-8.3* PHOSPHATE-4.5 MAGNESIUM-1.8
___ 01:28PM   WBC-9.0 RBC-3.73* HGB-12.5 HCT-36.9 MCV-99* 
MCH-33.5* MCHC-33.8 RDW-14.6
___ 01:28PM   PLT COUNT-170
___ 05:54AM BLOOD WBC-9.8 RBC-3.54* Hgb-11.7* Hct-34.7* 
MCV-98 MCH-33.0* MCHC-33.6 RDW-14.8 Plt ___
___ 05:54AM BLOOD Glucose-152* UreaN-14 Creat-1.0 Na-139 
K-4.5 Cl-102 HCO3-29 AnGap-13
 
Brief Hospital Course:
The patient was admitted to the general surgery floor s/p 
Takedown of colostomy and repair of peristomal hernia. She was 
made NPO with IVF/Foley/meds. With the return of bowel function 
and flatus the patient's diet was advanced from clears to 
regular, tolerated well. Her foley was removed with out issues. 
Her JP drain and CVL were also d/c'd. She was started on PO/Home 
meds. 
All discharge paperwork was reviewed with pt and all questions 
answered. She will follow up in ___ weeks. 

 
Medications on Admission:
HCTZ 50', Actos 30', ASA 81', Metformin 850', Vasotec 20',
Simvastatin 20', Ibuprofen, Azmacort

 
Discharge Medications:
1. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain for 2 weeks: do not take 
more than 4000mg of acetaminophen in 24 hrs. .
Disp:*45 Tablet(s)* Refills:*0*
2. Aspirin 81 mg Tablet, Chewable Sig: Two (2) Tablet, Chewable 
PO DAILY (Daily).  
3. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
5. Lopressor 50 mg Tablet Sig: 0.5 Tablet PO twice a day.  
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day as needed for constipation for 1 months: Take with pain 
meds.
Disp:*60 Capsule(s)* Refills:*0*
8. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
End colostomy and peristomal hernia

 
Discharge Condition:
stable.
tolerating regular diet.
pain well controlled with oral medications.

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
.
Incision Care:
-Your staples will be removed at your follow up appointment. 
-Steri-strips will be applied and will fall off on their own. 
Please remove any remaining strips ___ days after application.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision 

 
Followup Instructions:
___